US05840726
2-[(R)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(2-phenyl-ethyl)-ethylamine hydrochloride disalt
Combine 2-[(R)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(t-butoxycarbonyl)-N-(2-phenyl-ethyl)-ethylamine (1.64 g, 3.53 mmol) and dichloromethane (30 mL). Slowly pass hydrogen chloride gas through the solution for 20 minutes. Stir for 1 hour. Add diethyl ether (150 mL) to form a solid. Filter and dry under vacuum to give the title compound. Elem. Anal. calculated for C22H27N3O2 .0.75 H2O: C, 58.70; H, 6.98; N, 9.14. Found: C, 58.71; H, 6.98; N, 9.14.

reactant | 2-[(R)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(t-butoxycarbonyl)-N-(2-phenyl-ethyl)-ethylamine | 3.53 mmol, 1.64 g | N1C=C(C2=CC=CC=C12)C[C@H](CC(=O)O)NCCN(CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H35N3O4
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-[(R)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(2-phenyl-ethyl)-ethylamine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)C[C@H](CC(=O)O)NCCNCCC1=CC=CC=C1 | InChI=1S/C22H27N3O2.ClH/c26-22(27)15-19(14-18-16-25-21-9-5-4-8-20(18)21)24-13-12-23-11-10-17-6-2-1-3-7-17;/h1-9,16,19,23-25H,10-15H2,(H,26,27);1H/t19-;/m1./s1
